US06900226B2
To a solution of 0.81 g 4-bromoanthranilic acid (J. Org. Chem. 1997, 62, 1240-1256), 39 mg 4-(dimethylamino)pyridine and 2.09 ml triethylamine in dry dimethylformamide is added dropwise 0.69 ml acetylchloride at 3° C. for 20 min. in an ice-water bath under argon. The reaction mixture is then heated at 90° C. for 3 h. and 1.08 g ammonium carbonate is added portionwise over 10 min., and the mixture is stirred at the same temperature for 1 h. After cooling, the mixture is poured onto 20 ml water and the precipitate is filtered, washed with water and dried in vacuo to give 0.46 g (51%) of crude 7-Bromo-2-methyl-3H-quinazolin-4-one as a light-brown solid. Mp.>191° C. (dec.). MS (EI): peaks at m/e: 240(M+, 100%), 223 (14%), 197(18%).

reactant | 4-bromoanthranilic acid | 0.81 g | BrC=1C=C(C(C(=O)O)=CC1)N | C7H6BrNO2
reactant | triethylamine | 2.09 ml | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | 0.69 ml | C(C)(=O)Cl | C2H3ClO
reactant | ammonium carbonate | 1.08 g | C([O-])([O-])=O.[NH4+].[NH4+]
catalyst | 4-(dimethylamino)pyridine | 39 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 7-Bromo-2-methyl-3H-quinazolin-4-one | 0.46 g, 51% | BrC1=CC=C2C(NC(=NC2=C1)C)=O | C9H7BrN2O
